* 7805
* Source: https://github.com/kafana/ltspice-misc/blob/master/models/regulators.lib
*78L05 MCE 7-12-95
*78L05 circuit taken from Signetics 1977 Analog Data Book page 160
*5V 100mA Voltage Regulator pkg:TO-92 1,2,3
.SUBCKT 78L05 1 2 3
Q1 5 5 1 QPNP
Q2 10 5 1 QPNP
Q3 1 11 12 QNPN
Q4 1 10 11 QNPN
Q5 10 13 14 QNPN
Q6 1 4 20 QNPN
Q7 10 19 21 QNPN
Q8 9 9 2 QNPN
Q9 18 9 22 QNPN OFF
Q10 8 18 2 QNPN
Q11 5 7 17 QNPN
Q12 5 16 17 QNPN
Q13 10 15 17 QNPN
C1 15 10 20E-12
D1 2 4 DZ5V
Q14 2 8 7 QPNP
R17 2 17 4E3
R16 4 1 20E3
R15 16 20 4E3
R14 19 16 700
R13 2 19 300
R12 2 21 100
R11 9 7 1E3
R10 18 7 10E3
R9 7 3 2.2E3
R8 2 22 1E3
R7 8 7 2E3
R6 2 15 1.4E3
R5 15 3 4.5E3
R4 3 14 100
R3 3 12 2
R2 13 11 500
R1 13 12 200

.MODEL QPNP PNP(IS=1.05E-15 BF=220 VAF=240 IKF=0.1 ISE=1.003E-9
+ NE=4 ISC=1.003E-9 NC=4 RB=3 RE=0.5 RC=0.2 CJE=5.7E-12 VJE=0.75 TF=3.35E-10
+ CJC=4.32E-12 VJC=0.75 TR=1.7E-7 VJS=0.75 KF=4E-15 )

.MODEL QNPN NPN(IS=8.11E-14 BF=205 VAF=113 IKF=0.5 ISE=1.06E-11
+ NE=2 BR=4 VAR=24 IKR=0.225 RB=1.37 RE=0.343 RC=0.137 CJE=2.95E-11
+ TF=3.97E-10 CJC=1.52E-11 TR=8.5E-8 XTB=1.5 )

.MODEL DZ5V D(IS=1E-11 RS=7.708 N=1.27 TT=5E-8 CJO=4.068E-10 VJ=0.75
+ M=0.33 BV=4.946 IBV=0.01 )
.ENDS 78L05
